US06489487B1
To a suspension of 4.2 g (0.1094 mol) of lithium aluminum hydride in 250 ml of dry diethyl ether was added dropwise a solution of 33.4 g (0.1458 mol) of methyl 5-bromo-2-methylbenzoate in 50 ml of dry diethyl ether at room temperature over 30 minutes with ice-cooling under an atmosphere of nitrogen. The mixture was stirred at room temperature for 2 hours. About 10 ml of ethyl acetate was added dropwise thereto and further about 50 ml of tetrahydrofuran was added thereto. The mixture was added to 200 ml of a 10% aqueous solution of sulfuric acid and ice, and the mixture was separated. The organic layer was washed successively with water, a saturated aqueous solution of sodium bicarbonate and saturated brine, then dried and concentrated. The residue (28.7 g) was subjected to silica gel column chromatography (eluted with n-hexane:ethyl acetate=10:1 and then 5:1) to obtain 24.36 g of 5-bromo-2-methylbenzylalcohol as crystals.

reactant | lithium aluminum hydride | 0.1094 mol, 4.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 5-bromo-2-methylbenzoate | 0.1458 mol, 33.4 g | BrC=1C=CC(=C(C(=O)OC)C1)C | C9H9BrO2
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | about 50 ml | O1CCCC1 | C4H8O
product | 5-bromo-2-methylbenzylalcohol | 24.36 g | BrC=1C=CC(=C(CO)C1)C | C8H9BrO
